US04962103
(2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(4-t-butyloxycarbonylbutyl)-4-acetylthiopyrrolidine (493 mg) was dissolved in 2.5 ml of trifluoroacetic acid, followed by stirring at room temperature for 15 minutes. The reaction mixture was distilled off to obtain (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(4-carboxybutyl)-4-acetylthiopyrrolidine.

reactant | (2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(4-t-butyloxycarbonylbutyl)-4-acetylthiopyrrolidine | 493 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CCCCC(=O)OC(C)(C)C)C=C1 | C23H32N2O7S
solvent | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(4-carboxybutyl)-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CCCCC(=O)O)C=C1 | C19H24N2O7S
